* File: G2_BUF1_N1.pex.netlist.pex
* Created: Wed Mar  2 15:26:00 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_BUF1_N1_VDD 2 4 7 11 28 32 52 56 58 59 63 67 69 73 77 90 95 Vss
c58 95 Vss 0.00471589f
c59 90 Vss 0.0048335f
c60 80 Vss 7.0893e-19
c61 79 Vss 7.0893e-19
c62 77 Vss 0.00107913f
c63 73 Vss 0.00106523f
c64 70 Vss 0.00175834f
c65 69 Vss 0.00726612f
c66 67 Vss 0.00110053f
c67 63 Vss 0.00110053f
c68 60 Vss 0.00175834f
c69 59 Vss 0.00712138f
c70 58 Vss 0.00330526f
c71 56 Vss 0.00424287f
c72 52 Vss 0.00330526f
c73 32 Vss 0.0346129f
c74 31 Vss 0.101192f
c75 28 Vss 0.0346129f
c76 27 Vss 0.101192f
c77 11 Vss 0.16682f
c78 7 Vss 0.16682f
c79 4 Vss 0.00203161f
c80 2 Vss 0.00233151f
r81 77 95 1.16709
r82 75 77 2.16729
r83 73 90 1.16709
r84 71 73 2.16729
r85 69 75 0.652036
r86 69 70 10.1279
r87 65 80 0.0828784
r88 65 67 1.82344
r89 61 79 0.0828784
r90 61 63 1.82344
r91 59 71 0.652036
r92 59 60 10.1279
r93 58 70 0.652036
r94 57 80 0.551426
r95 57 58 4.16786
r96 54 80 0.551426
r97 54 56 3.45932
r98 53 79 0.551426
r99 53 56 1.45875
r100 52 79 0.551426
r101 51 60 0.652036
r102 51 52 4.16786
r103 34 95 0.238214
r104 32 34 1.45875
r105 31 38 0.652036
r106 31 34 1.45875
r107 30 90 0.238214
r108 28 30 1.45875
r109 27 35 0.652036
r110 27 30 1.45875
r111 24 32 0.652036
r112 21 28 0.652036
r113 11 38 2.5674
r114 11 24 2.5674
r115 7 35 2.5674
r116 7 21 2.5674
r117 4 67 1.16709
r118 2 63 1.16709
.ends

.subckt PM_G2_BUF1_N1_VSS 3 7 10 12 27 28 31 32 52 57 62 67 72 77 97 98 99 100
+ 101 105 110 114 116 Vss
c60 118 Vss 6.78504e-19
c61 117 Vss 6.78504e-19
c62 116 Vss 0.00235663f
c63 114 Vss 0.00287691f
c64 110 Vss 0.00235663f
c65 105 Vss 9.66804e-19
c66 101 Vss 8.0746e-19
c67 100 Vss 5.83649e-19
c68 99 Vss 0.00631424f
c69 98 Vss 5.83649e-19
c70 97 Vss 0.00625937f
c71 77 Vss 0.00398915f
c72 72 Vss 0.00399741f
c73 67 Vss 1.62164e-19
c74 62 Vss 3.56438e-22
c75 57 Vss 8.13664e-19
c76 52 Vss 7.92706e-19
c77 34 Vss 1.28632e-19
c78 32 Vss 0.0341976f
c79 31 Vss 0.0984533f
c80 28 Vss 0.0341976f
c81 27 Vss 0.0984533f
c82 12 Vss 0.00237948f
c83 10 Vss 0.00207958f
c84 7 Vss 0.16682f
c85 3 Vss 0.16682f
r86 115 118 0.551426
r87 115 116 4.16786
r88 112 118 0.551426
r89 112 114 2.12561
r90 111 117 0.551426
r91 111 114 2.79246
r92 110 117 0.551426
r93 109 110 4.16786
r94 105 118 0.0828784
r95 101 117 0.0828784
r96 99 116 0.652036
r97 99 100 10.1279
r98 97 109 0.652036
r99 97 98 10.1279
r100 93 100 0.652036
r101 89 98 0.652036
r102 67 105 1.82344
r103 62 101 1.82344
r104 57 77 1.16709
r105 57 93 2.16729
r106 52 72 1.16709
r107 52 89 2.16729
r108 34 77 0.238214
r109 32 34 1.45875
r110 31 38 0.652036
r111 31 34 1.45875
r112 30 72 0.238214
r113 28 30 1.45875
r114 27 35 0.652036
r115 27 30 1.45875
r116 24 32 0.652036
r117 21 28 0.652036
r118 12 67 1.16709
r119 10 62 1.16709
r120 7 38 2.5674
r121 7 24 2.5674
r122 3 35 2.5674
r123 3 21 2.5674
.ends

.subckt PM_G2_BUF1_N1_A 2 4 9 12 22 25 28 Vss
c18 28 Vss 0.00276471f
c19 25 Vss 3.55586e-19
c20 12 Vss 0.20721f
c21 9 Vss 0.0715834f
c22 7 Vss 0.0247918f
c23 4 Vss 0.0847975f
r24 25 28 1.16709
r25 22 25 0.0795682
r26 15 28 0.0476429
r27 13 15 0.326018
r28 13 15 0.1167
r29 12 16 0.652036
r30 12 15 6.7686
r31 9 28 0.357321
r32 7 15 0.326018
r33 7 9 0.40845
r34 4 16 2.5674
r35 2 9 2.15895
.ends

.subckt PM_G2_BUF1_N1_Z 2 19 Vss
c15 19 Vss 2.80869e-19
c16 2 Vss 0.00176567f
r17 16 19 0.0364688
r18 2 16 1.16709
.ends

.subckt PM_G2_BUF1_N1_NET17 2 4 6 18 36 41 50 58 Vss
c37 58 Vss 5.85801e-19
c38 50 Vss 0.00307045f
c39 41 Vss 0.0013766f
c40 36 Vss 0.00137137f
c41 22 Vss 0.0247918f
c42 19 Vss 0.0295882f
c43 18 Vss 0.176231f
c44 6 Vss 0.0715834f
c45 4 Vss 0.00176567f
c46 2 Vss 0.0847975f
r47 54 58 0.653045
r48 41 50 1.16709
r49 41 58 2.1395
r50 36 54 3.45932
r51 28 50 0.0476429
r52 26 50 0.357321
r53 22 28 0.326018
r54 22 26 0.40845
r55 19 28 6.7686
r56 18 28 0.326018
r57 18 28 0.1167
r58 15 19 0.652036
r59 6 26 2.15895
r60 4 36 1.16709
r61 2 15 2.5674
.ends

