* File: G3_DFFQ1_N1.pex.netlist.pex
* Created: Tue Apr  5 22:58:19 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_DFFQ1_N1_VSS 2 4 6 8 10 12 14 29 42 44 49 67 72 78 83 88 93 102
+ 111 116 125 126 127 128 132 137 142 148 154 156 161 163 165 166 167 Vss
c117 167 Vss 4.28045e-19
c118 166 Vss 3.75522e-19
c119 165 Vss 3.75522e-19
c120 164 Vss 6.13404e-19
c121 163 Vss 0.00437039f
c122 161 Vss 0.00140798f
c123 156 Vss 0.00134457f
c124 154 Vss 0.0025067f
c125 148 Vss 0.00439094f
c126 142 Vss 0.00297776f
c127 132 Vss 0.00193747f
c128 128 Vss 7.01403e-19
c129 127 Vss 8.12244e-19
c130 126 Vss 0.00567951f
c131 125 Vss 0.00148961f
c132 116 Vss 0.00596988f
c133 111 Vss 0.00418189f
c134 102 Vss 0.00407665f
c135 93 Vss 1.70165e-19
c136 88 Vss 0.00119073f
c137 83 Vss 5.15444e-19
c138 78 Vss 0.00173585f
c139 72 Vss 0.00866259f
c140 67 Vss 0.00134806f
c141 49 Vss 0.0560391f
c142 44 Vss 0.0560391f
c143 42 Vss 7.82991e-20
c144 29 Vss 0.0355813f
c145 28 Vss 0.101268f
c146 14 Vss 0.0832368f
c147 12 Vss 0.00370216f
c148 10 Vss 0.0027334f
c149 8 Vss 0.0822683f
c150 6 Vss 0.0792534f
c151 4 Vss 0.0793599f
c152 2 Vss 0.00198471f
r153 162 167 0.551426
r154 162 163 13.3371
r155 161 167 0.551426
r156 160 161 4.16786
r157 156 167 0.0828784
r158 155 166 0.494161
r159 154 163 0.652036
r160 154 155 4.37625
r161 150 166 0.128424
r162 149 165 0.494161
r163 148 160 0.652036
r164 148 149 10.1279
r165 144 165 0.128424
r166 143 164 0.494161
r167 142 166 0.494161
r168 142 143 7.46046
r169 138 164 0.128424
r170 132 164 0.494161
r171 132 137 1.00029
r172 126 165 0.494161
r173 126 127 15.8795
r174 125 128 0.655813
r175 124 127 0.652036
r176 124 125 4.16786
r177 93 156 1.82344
r178 88 116 1.16709
r179 88 150 2.16729
r180 83 111 1.16709
r181 83 144 2.16729
r182 78 138 4.83471
r183 75 137 1.29204
r184 72 102 1.16709
r185 72 75 12.4202
r186 67 128 1.82344
r187 49 116 0.197068
r188 46 49 1.2837
r189 42 111 0.197068
r190 42 44 1.2837
r191 38 46 0.0685365
r192 35 44 0.0685365
r193 31 102 0.0476429
r194 29 31 1.45875
r195 28 32 0.652036
r196 28 31 1.45875
r197 25 29 0.652036
r198 14 38 2.5674
r199 12 93 1.16709
r200 10 78 1.16709
r201 8 35 2.5674
r202 6 32 2.5674
r203 4 25 2.5674
r204 2 67 1.16709
.ends

.subckt PM_G3_DFFQ1_N1_CK 2 4 6 8 18 25 37 40 Vss
c31 40 Vss 0.00572916f
c32 37 Vss 3.65059e-19
c33 33 Vss 0.0299355f
c34 25 Vss 0.165118f
c35 18 Vss 0.186407f
c36 15 Vss 0.077884f
c37 13 Vss 0.0247918f
c38 6 Vss 0.441644f
c39 4 Vss 0.0840059f
r40 37 40 1.16709
r41 26 33 0.494161
r42 25 27 0.652036
r43 25 26 4.84305
r44 22 33 0.128424
r45 21 40 0.238214
r46 19 21 0.326018
r47 19 21 0.1167
r48 18 33 0.494161
r49 18 21 6.7686
r50 15 21 0.262036
r51 13 21 0.326018
r52 13 15 0.05835
r53 6 8 12.837
r54 6 27 2.5674
r55 4 22 2.5674
r56 2 15 2.50905
.ends

.subckt PM_G3_DFFQ1_N1_VDD 2 4 6 10 12 14 28 42 44 49 63 64 65 70 72 76 78 79 82
+ 84 86 91 93 95 96 98 99 100 102 104 113 118 Vss
c117 118 Vss 0.00660773f
c118 113 Vss 0.00546672f
c119 104 Vss 0.00477384f
c120 100 Vss 3.56526e-19
c121 99 Vss 2.39889e-19
c122 98 Vss 4.42156e-19
c123 96 Vss 0.00351049f
c124 95 Vss 5.22595e-19
c125 93 Vss 0.00279817f
c126 91 Vss 0.00684574f
c127 86 Vss 0.00166444f
c128 84 Vss 0.00296655f
c129 82 Vss 0.00146489f
c130 79 Vss 4.90412e-19
c131 78 Vss 0.00554983f
c132 76 Vss 5.91088e-19
c133 72 Vss 0.00336584f
c134 70 Vss 0.00240239f
c135 67 Vss 0.00178747f
c136 65 Vss 8.63831e-19
c137 64 Vss 0.00713032f
c138 63 Vss 0.00360153f
c139 49 Vss 0.0578141f
c140 44 Vss 0.0572437f
c141 42 Vss 7.44761e-20
c142 29 Vss 0.0373466f
c143 28 Vss 0.100964f
c144 14 Vss 0.00374907f
c145 12 Vss 0.0826302f
c146 10 Vss 0.0827668f
c147 6 Vss 0.00176834f
c148 4 Vss 0.0823731f
c149 2 Vss 0.0811326f
r150 95 104 1.16709
r151 95 96 0.470345
r152 93 102 0.326018
r153 92 100 0.551426
r154 92 93 4.16786
r155 91 100 0.551426
r156 90 91 13.3371
r157 86 100 0.0828784
r158 86 88 1.82344
r159 85 99 0.494161
r160 84 90 0.652036
r161 84 85 4.37625
r162 82 118 1.16709
r163 80 99 0.128424
r164 80 82 2.16729
r165 78 102 0.326018
r166 78 79 10.1279
r167 76 113 1.16709
r168 74 79 0.652036
r169 74 76 2.16729
r170 73 98 0.494161
r171 72 99 0.494161
r172 72 73 7.46046
r173 68 98 0.128424
r174 68 70 4.83471
r175 67 96 3.82922
r176 64 98 0.494161
r177 64 65 13.0037
r178 63 67 0.655813
r179 62 65 0.652036
r180 62 63 7.002
r181 49 118 0.197068
r182 46 49 1.2837
r183 42 113 0.197068
r184 42 44 1.2837
r185 38 46 0.0685365
r186 35 44 0.0685365
r187 31 104 0.0476429
r188 29 31 1.45875
r189 28 32 0.652036
r190 28 31 1.45875
r191 25 29 0.652036
r192 14 88 1.16709
r193 12 38 2.5674
r194 10 35 2.5674
r195 6 70 1.16709
r196 4 25 2.5674
r197 2 32 2.5674
.ends

.subckt PM_G3_DFFQ1_N1_CKN 2 6 8 18 28 33 50 Vss
c38 51 Vss 0.00127799f
c39 50 Vss 0.0053557f
c40 33 Vss 6.7412e-19
c41 28 Vss 0.00188103f
c42 18 Vss 8.89292e-19
c43 6 Vss 0.365937f
c44 2 Vss 0.00148239f
r45 50 51 14.6709
r46 46 51 0.652036
r47 33 50 0.531835
r48 28 46 4.00114
r49 18 33 1.16709
r50 8 18 6.4185
r51 6 18 6.4185
r52 2 28 1.16709
.ends

.subckt PM_G3_DFFQ1_N1_D 2 4 11 12 22 25 28 Vss
c27 28 Vss 0.00185315f
c28 25 Vss 4.49891e-19
c29 12 Vss 0.210787f
c30 11 Vss 2.35358e-19
c31 7 Vss 0.0247918f
c32 4 Vss 0.0830137f
c33 2 Vss 0.0713067f
r34 25 28 1.16709
r35 22 25 0.0364688
r36 15 28 0.0476429
r37 13 15 0.326018
r38 13 15 0.1167
r39 12 16 0.652036
r40 12 15 6.7686
r41 11 28 0.357321
r42 7 15 0.326018
r43 7 11 0.40845
r44 4 16 2.5674
r45 2 11 2.15895
.ends

.subckt PM_G3_DFFQ1_N1_X 2 4 8 17 20 23 35 39 41 47 Vss
c50 47 Vss 0.00138877f
c51 41 Vss 6.77172e-19
c52 39 Vss 0.0010541f
c53 35 Vss 0.00217231f
c54 23 Vss 7.53039e-20
c55 20 Vss 0.21062f
c56 17 Vss 0.0712602f
c57 15 Vss 0.0247918f
c58 8 Vss 0.0829593f
c59 2 Vss 0.00172036f
r60 44 47 1.16709
r61 41 44 2.08393
r62 37 39 4.33457
r63 36 41 0.0685365
r64 35 37 0.652036
r65 35 36 1.70882
r66 23 47 0.0476429
r67 21 23 0.326018
r68 21 23 0.1167
r69 20 24 0.652036
r70 20 23 6.7686
r71 17 47 0.357321
r72 15 23 0.326018
r73 15 17 0.40845
r74 8 24 2.5674
r75 4 17 2.15895
r76 2 39 1.16709
.ends

.subckt PM_G3_DFFQ1_N1_Q 2 16 Vss
c12 16 Vss 4.30842e-19
c13 2 Vss 0.00150258f
r14 16 19 0.0416786
r15 2 19 1.16709
.ends

