* File: G3_DFFQ1_N2.pex.netlist.pex
* Created: Wed Apr  6 11:10:43 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_DFFQ1_N2_VSS 2 4 6 8 10 12 14 29 42 44 49 55 59 64 67 72 78 83 88
+ 93 102 111 116 125 126 127 128 132 137 142 148 154 156 161 163 165 166 167 Vss
c103 167 Vss 4.28045e-19
c104 166 Vss 3.75522e-19
c105 165 Vss 3.75522e-19
c106 164 Vss 6.15603e-19
c107 163 Vss 0.00495722f
c108 161 Vss 0.0016477f
c109 156 Vss 0.00136752f
c110 154 Vss 0.00253212f
c111 148 Vss 0.004602f
c112 142 Vss 0.00300844f
c113 132 Vss 0.0019674f
c114 128 Vss 6.73974e-19
c115 127 Vss 8.13835e-19
c116 126 Vss 0.00570183f
c117 125 Vss 0.00160501f
c118 116 Vss 0.00497548f
c119 111 Vss 0.00376876f
c120 102 Vss 0.00442938f
c121 93 Vss 2.73987e-19
c122 88 Vss 8.09754e-19
c123 83 Vss 7.28045e-19
c124 78 Vss 0.00155391f
c125 72 Vss 0.0108629f
c126 67 Vss 0.00135556f
c127 64 Vss 0.00650697f
c128 59 Vss 0.00498022f
c129 55 Vss 0.00373197f
c130 49 Vss 0.0568987f
c131 44 Vss 0.0568992f
c132 42 Vss 1.04992e-19
c133 29 Vss 0.035607f
c134 28 Vss 0.101294f
c135 14 Vss 0.134651f
c136 8 Vss 0.136772f
c137 6 Vss 0.133795f
c138 4 Vss 0.133902f
r139 162 167 0.551426
r140 162 163 15.5878
r141 161 167 0.551426
r142 160 161 4.62632
r143 156 167 0.0828784
r144 155 166 0.494161
r145 154 163 0.652036
r146 154 155 4.37625
r147 150 166 0.128424
r148 149 165 0.494161
r149 148 160 0.652036
r150 148 149 10.1279
r151 144 165 0.128424
r152 143 164 0.494161
r153 142 166 0.494161
r154 142 143 7.46046
r155 138 164 0.128424
r156 132 164 0.494161
r157 132 137 1.00029
r158 126 165 0.494161
r159 126 127 15.8795
r160 125 128 0.655813
r161 124 127 0.652036
r162 124 125 4.62632
r163 93 156 1.82344
r164 88 116 1.16709
r165 88 150 2.16729
r166 83 111 1.16709
r167 83 144 2.16729
r168 78 138 5.2515
r169 75 137 1.29204
r170 72 102 1.16709
r171 72 75 13.7539
r172 67 128 1.82344
r173 64 93 1.16709
r174 59 78 1.16709
r175 55 67 1.16709
r176 49 116 0.197068
r177 46 49 1.2837
r178 42 111 0.197068
r179 42 44 1.2837
r180 38 46 0.0685365
r181 35 44 0.0685365
r182 31 102 0.0476429
r183 29 31 1.45875
r184 28 32 0.652036
r185 28 31 1.45875
r186 25 29 0.652036
r187 14 38 3.8511
r188 12 64 0.185659
r189 10 59 0.185659
r190 8 35 3.8511
r191 6 32 3.8511
r192 4 25 3.8511
r193 2 55 0.185659
.ends

.subckt PM_G3_DFFQ1_N2_CK 2 4 6 8 18 21 25 37 40 Vss
c33 40 Vss 0.00476958f
c34 37 Vss 3.41336e-19
c35 33 Vss 0.0299314f
c36 25 Vss 0.166342f
c37 21 Vss 1.04992e-19
c38 18 Vss 0.18663f
c39 15 Vss 0.12596f
c40 13 Vss 0.0247918f
c41 6 Vss 0.550304f
c42 4 Vss 0.136627f
r43 37 40 1.16709
r44 26 33 0.494161
r45 25 27 0.652036
r46 25 26 4.84305
r47 22 33 0.128424
r48 21 40 0.0238214
r49 19 21 0.326018
r50 19 21 0.1167
r51 18 33 0.494161
r52 18 21 6.7686
r53 15 40 0.357321
r54 13 21 0.326018
r55 13 15 0.3501
r56 6 8 15.4044
r57 6 27 3.8511
r58 4 22 3.8511
r59 2 15 3.501
.ends

.subckt PM_G3_DFFQ1_N2_VDD 2 4 6 8 10 12 14 28 42 44 49 56 60 63 64 65 70 72 76
+ 78 79 82 84 86 91 93 95 96 98 99 100 102 104 113 118 Vss
c109 118 Vss 0.00535583f
c110 113 Vss 0.00546246f
c111 104 Vss 0.00475709f
c112 100 Vss 4.52364e-19
c113 99 Vss 2.39889e-19
c114 98 Vss 4.42806e-19
c115 96 Vss 0.00368915f
c116 95 Vss 5.05789e-19
c117 93 Vss 0.00304576f
c118 91 Vss 0.00856613f
c119 86 Vss 0.00179444f
c120 84 Vss 0.00304688f
c121 82 Vss 0.00102756f
c122 79 Vss 4.90412e-19
c123 78 Vss 0.00536329f
c124 76 Vss 6.6871e-19
c125 72 Vss 0.00341969f
c126 70 Vss 0.00232792f
c127 67 Vss 0.00182492f
c128 65 Vss 8.64465e-19
c129 64 Vss 0.00774944f
c130 63 Vss 0.00502551f
c131 60 Vss 0.00655192f
c132 56 Vss 0.00779243f
c133 49 Vss 0.0588939f
c134 44 Vss 0.0581359f
c135 42 Vss 1.01357e-19
c136 29 Vss 0.0372896f
c137 28 Vss 0.10099f
c138 12 Vss 0.13719f
c139 10 Vss 0.13484f
c140 8 Vss 0.00143442f
c141 4 Vss 0.136142f
c142 2 Vss 0.134971f
r143 95 104 1.16709
r144 95 96 0.470345
r145 93 102 0.326018
r146 92 100 0.551426
r147 92 93 4.58464
r148 91 100 0.551426
r149 90 91 15.6295
r150 86 100 0.0828784
r151 86 88 1.82344
r152 85 99 0.494161
r153 84 90 0.652036
r154 84 85 4.37625
r155 82 118 1.16709
r156 80 99 0.128424
r157 80 82 2.16729
r158 78 102 0.326018
r159 78 79 10.1279
r160 76 113 1.16709
r161 74 79 0.652036
r162 74 76 2.16729
r163 73 98 0.494161
r164 72 99 0.494161
r165 72 73 7.46046
r166 68 98 0.128424
r167 68 70 5.29318
r168 67 96 3.82922
r169 64 98 0.494161
r170 64 65 13.0037
r171 63 67 0.655813
r172 62 65 0.652036
r173 62 63 8.37739
r174 60 88 1.16709
r175 56 70 1.16709
r176 49 118 0.197068
r177 46 49 1.2837
r178 42 113 0.197068
r179 42 44 1.2837
r180 38 46 0.0685365
r181 35 44 0.0685365
r182 31 104 0.0476429
r183 29 31 1.45875
r184 28 32 0.652036
r185 28 31 1.45875
r186 25 29 0.652036
r187 14 60 0.185659
r188 12 38 3.8511
r189 10 35 3.8511
r190 8 56 0.185659
r191 6 56 0.185659
r192 4 25 3.8511
r193 2 32 3.8511
.ends

.subckt PM_G3_DFFQ1_N2_CKN 2 4 6 8 18 25 28 33 50 Vss
c38 51 Vss 0.00128326f
c39 50 Vss 0.00576518f
c40 33 Vss 7.37543e-19
c41 28 Vss 0.00177951f
c42 25 Vss 0.00542517f
c43 18 Vss 7.82969e-19
c44 6 Vss 0.475302f
c45 4 Vss 0.00143442f
r46 50 51 14.6709
r47 46 51 0.652036
r48 33 50 0.531835
r49 28 46 4.91807
r50 25 28 1.16709
r51 18 33 1.16709
r52 8 18 7.7022
r53 6 18 7.7022
r54 4 25 0.185659
r55 2 25 0.185659
.ends

.subckt PM_G3_DFFQ1_N2_D 2 4 11 12 22 25 28 Vss
c24 28 Vss 0.00170116f
c25 25 Vss 4.81931e-19
c26 12 Vss 0.21156f
c27 11 Vss 9.81474e-20
c28 7 Vss 0.0247918f
c29 4 Vss 0.137342f
c30 2 Vss 0.125849f
r31 25 28 1.16709
r32 22 25 0.0364688
r33 15 28 0.0476429
r34 13 15 0.326018
r35 13 15 0.1167
r36 12 16 0.652036
r37 12 15 6.7686
r38 11 28 0.357321
r39 7 15 0.326018
r40 7 11 0.40845
r41 4 16 3.8511
r42 2 11 3.44265
.ends

.subckt PM_G3_DFFQ1_N2_X 2 4 6 8 17 20 23 33 35 39 41 47 Vss
c47 47 Vss 0.00138877f
c48 41 Vss 5.3862e-19
c49 39 Vss 0.00123905f
c50 35 Vss 0.00217266f
c51 33 Vss 0.00551754f
c52 23 Vss 1.01432e-19
c53 20 Vss 0.21178f
c54 17 Vss 0.125802f
c55 15 Vss 0.0247918f
c56 8 Vss 0.137267f
c57 6 Vss 0.00143442f
r58 44 47 1.16709
r59 41 44 2.08393
r60 37 39 5.2515
r61 36 41 0.0685365
r62 35 37 0.652036
r63 35 36 1.70882
r64 33 39 1.16709
r65 23 47 0.0476429
r66 21 23 0.326018
r67 21 23 0.1167
r68 20 24 0.652036
r69 20 23 6.7686
r70 17 47 0.357321
r71 15 23 0.326018
r72 15 17 0.40845
r73 8 24 3.8511
r74 6 33 0.185659
r75 4 17 3.44265
r76 2 33 0.185659
.ends

.subckt PM_G3_DFFQ1_N2_Q 2 4 13 16 Vss
c12 16 Vss 3.81501e-19
c13 13 Vss 0.00450389f
c14 4 Vss 0.00143442f
r15 16 19 0.0416786
r16 13 19 1.16709
r17 4 13 0.185659
r18 2 13 0.185659
.ends

